US05356893
4-Acetyl-2-methoxyphenyl trifluoromethanesulphonate as a white crystalline solid (648 mg) m.p. 34°-34°.
From a solution of 1-(4-hydroxy-3-methoxyphenyl)ethanone (0.50 g) in dry dichloromethane (15 ml) containing dry pyridine (0.4 ml) and trifluoromethanesulphonic anhydride (0.8 ml).

reactant | 1-(4-hydroxy-3-methoxyphenyl)ethanone | 0.50 g | OC1=C(C=C(C=C1)C(C)=O)OC | C9H10O3
reactant | pyridine | 0.4 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulphonic anhydride | 0.8 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-Acetyl-2-methoxyphenyl trifluoromethanesulphonate | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(C)=O)OC)(F)F | C10H9F3O5S
